US08168833B2
To a suspension of NaH (60% dispersion in mineral oil, 1.2 g, 30 mmol, 1.5 eq., Aldrich) in THF (20 mL) at 0° C. was slowly added a solution of indole (2.4 g, 20 mmol, Aldrich) in THF (20 mL). The resulting mixture was stirred at 0° C. for 20 min, after which N,N-diethylcarbamoyl chloride (2.9 mL, 22 mmol, 1.1 eq., Aldrich) was added. Then, the reaction mixture was stirred at 0° C. for 30 min. H2O (10 mL) was added to quench the reaction and the mixture was transferred to a separatory funnel. The organic and aqueous layers were separated and the aqueous layer was extracted with EtOAc (3×20 mL). The combined organic layers were washed with brine, dried with MgSO4 and concentrated under reduced pressure. After purification of the residue by a short silica gel column (silica gel 60, 230-400 mesh) with EtOAc/hexanes as eluent, the product N,N-diethyl-1H-indole-1-carboxamide (4.3 g, 99% yield) was obtained as a light yellow oil. Further purification using flash column chromatography was deemed unnecessary. 1H NMR (400 MHz, CDCl3) δ ppm: 7.67 (d, J=8.17 Hz, 1H), 7.63 (d, J=7.65 Hz, 1H), 7.36-7.26 (m, 2H), 7.21 (t, J=7.24 Hz, 1H), 6.62 (d, J=2.77 Hz, 1H), 3.51 (q, J=7.10 Hz, 4H), 1.27 (t, J=7.11 Hz, 6H); 13C NMR (101 MHz, CDCl3) δ ppm: 154.39, 135.51, 129.27, 125.89, 123.36, 121.55, 120.90, 112.98, 105.35, 42.41, 13.46.

reactant | NaH | 30 mmol, 1.2 g, 1.5 eq. | [H-].[Na+]
reactant | indole | 20 mmol, 2.4 g | N1C=CC2=CC=CC=C12 | C8H7N
reactant | N,N-diethylcarbamoyl chloride | 22 mmol, 2.9 mL, 1.1 eq. | C(C)N(C(=O)Cl)CC | C5H10ClNO
reactant | H2O | 10 mL | O | H2O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | N,N-diethyl-1H-indole-1-carboxamide | 4.3 g, 99% yield | C(C)N(C(=O)N1C=CC2=CC=CC=C12)CC | C13H16N2O
